US07214818B2
106 g (1.05 mol) N-methyl-N-pentylamine was added to cooled methanol of a temperature of 0–5° C. 108 g (1.25 mol) methyl acrylate was added to the solution and the mixture was stirred at room temperature for 8 hours. Then methanol was distilled off in vacuo and the residue was purified by distillation to obtain 188.6 g N-methyl-N-pentyl-β-alanine methyl ester (96.1%)

reactant | N-methyl-N-pentylamine | 1.05 mol, 106 g | CNCCCCC | C6H15N
reactant | methyl acrylate | 1.25 mol, 108 g | C(C=C)(=O)OC | C4H6O2
solvent | methanol | CO | CH4O
product | N-methyl-N-pentyl-β-alanine methyl ester | 188.6 g, 96.1% | COC(CCN(CCCCC)C)=O | C10H21NO2
